US04091220
In 20 volume parts of ethanol is dissolved 2.16 parts of o-nitrobenzyl chloride, followed by the addition of 1.02 parts of N-methyl piperazine and 1.3 parts of potassium carbonate. The mixture is reacted under reflux for 1 hour. The reaction mixture is then filtered and the solvent is removed from the filtrate by distillation under reduced pressure. The residue is extracted with water-ether (1:1). The ethereal layer is taken and dried over anhydrous sodium sulfate and the solvent is then distilled off. This procedure gives N1 -methyl-N4 -(2-nitrobenzyl)piperazine as a brown colored oily substance. Infrared absorption spectrum (liquid film)cm-1 : 1610, 1538.

reactant | N-methyl piperazine | CN1CCNCC1 | C5H12N2
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
reactant | o-nitrobenzyl chloride | [N+](=O)([O-])C1=C(CCl)C=CC=C1 | C7H6ClNO2
solvent | ethanol | C(C)O | C2H6O
product | N1 -methyl-N4 -(2-nitrobenzyl)piperazine | CN1CCN(CC1)CC1=C(C=CC=C1)[N+](=O)[O-] | C12H17N3O2
